* CSD18542KTT
**********************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
**Released by: Texas Instruments Inc.
* Part: CSD18542KTT
* Date: 21JAN2020
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SLPS590A –MARCH 2017
* Model Version: Final 1.00
**
****************************************************************************
**Updates:
**Final 1.00
* Release to Web
**
****************************************************************************
**Model Usage Notes:
**
****************************************************************************
* *
* CSD18542KTT - PSpice Model for use with OrCAD *
* *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD18542KTT  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    12.0e-3  
 .PARAM  ptrc2    2.75e-5
 .PARAM  pwidthP  7.094733333
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.11u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	1.85e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 4.25
RSB  12  9	 RTEMP 0.23166e-3
R     9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.10e-3
L     6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 1.25e-3
RDP   4  7	 {0.92e-3+0.23e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 0.5e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.40        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18         CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.8
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.325e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma  = 10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=1.00e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=8.0e-12 N=1.045 RS=1.05e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18542KTT
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 + (	0	3.9503E-09	)
 + (	0.5	3.9459E-09	)
 + (	1	3.9338E-09	)
 + (	1.5	3.9202E-09	)
 + (	2	3.909E-09	)
 + (	2.5	3.9009E-09	)
 + (	3	3.8942E-09	)
 + (	3.5	3.8887E-09	)
 + (	4	3.8843E-09	)
 + (	4.5	3.8807E-09	)
 + (	5	3.8778E-09	)
 + (	5.5	3.8755E-09	)
 + (	6	3.8726E-09	)
 + (	6.5	3.871E-09	)
 + (	7	3.8728E-09	)
 + (	7.5	3.8763E-09	)
 + (	8	3.91871E-09	)
 + (	8.5	3.97496E-09	)
 + (	9	3.97015E-09	)
 + (	9.5	3.96728E-09	)
 + (	10	3.96522E-09	)
 + (	10.5	3.96303E-09	)
 + (	11	3.96075E-09	)
 + (	11.5	3.95841E-09	)
 + (	12	3.95701E-09	)
 + (	12.5	3.95555E-09	)
 + (	13	3.95306E-09	)
 + (	13.5	3.95151E-09	)
 + (	14	3.94994E-09	)
 + (	14.5	3.94933E-09	)
 + (	15	3.94769E-09	)
 + (	15.5	3.94701E-09	)
 + (	16	3.94532E-09	)
 + (	16.5	3.94462E-09	)
 + (	17	3.94289E-09	)
 + (	17.5	3.94213E-09	)
 + (	18	3.94037E-09	)
 + (	18.5	3.93959E-09	)
 + (	19	3.93879E-09	)
 + (	19.5	3.93698E-09	)
 + (	20	3.93616E-09	)
 + (	20.5	3.93533E-09	)
 + (	21	3.93348E-09	)
 + (	21.5	3.93262E-09	)
 + (	22	3.93075E-09	)
 + (	22.5	3.92988E-09	)
 + (	23	3.92899E-09	)
 + (	23.5	3.9271E-09	)
 + (	24	3.92621E-09	)
 + (	24.5	3.9243E-09	)
 + (	25	3.92339E-09	)
 + (	25.5	3.92147E-09	)
 + (	26	3.92055E-09	)
 + (	26.5	3.91862E-09	)
 + (	27	3.91769E-09	)
 + (	27.5	3.91575E-09	)
 + (	28	3.91481E-09	)
 + (	28.5	3.91287E-09	)
 + (	29	3.91193E-09	)
 + (	29.5	3.90998E-09	)
 + (	30	3.90901E-09	)
 + (	30.5	3.90706E-09	)
 + (	31	3.90611E-09	)
 + (	31.5	3.90515E-09	)
 + (	32	3.9032E-09	)
 + (	32.5	3.90123E-09	)
 + (	33	3.89926E-09	)
 + (	33.5	3.8983E-09	)
 + (	34	3.89633E-09	)
 + (	34.5	3.89435E-09	)
 + (	35	3.89338E-09	)
 + (	35.5	3.89141E-09	)
 + (	36	3.88943E-09	)
 + (	36.5	3.88746E-09	)
 + (	37	3.88648E-09	)
 + (	37.5	3.8845E-09	)
 + (	38	3.88252E-09	)
 + (	38.5	3.88054E-09	)
 + (	39	3.87955E-09	)
 + (	39.5	3.87757E-09	)
 + (	40	3.87558E-09	)
 + (	40.5	3.87359E-09	)
 + (	41	3.87161E-09	)
 + (	41.5	3.87062E-09	)
 + (	42	3.86862E-09	)
 + (	42.5	3.86663E-09	)
 + (	43	3.86464E-09	)
 + (	43.5	3.86265E-09	)
 + (	44	3.86065E-09	)
 + (	44.5	3.85966E-09	)
 + (	45	3.85767E-09	)
 + (	45.5	3.85567E-09	)
 + (	46	3.85367E-09	)
 + (	46.5	3.85168E-09	)
 + (	47	3.84968E-09	)
 + (	47.5	3.84768E-09	)
 + (	48	3.84568E-09	)
 + (	48.5	3.84367E-09	)
 + (	49	3.84267E-09	)
 + (	49.5	3.84066E-09	)
 + (	50	3.83866E-09	)
 + (	50.5	3.83666E-09	)
 + (	51	3.83465E-09	)
 + (	51.5	3.83264E-09	)
 + (	52	3.83063E-09	)
 + (	52.5	3.8286E-09	)
 + (	53	3.82659E-09	)
 + (	53.5	3.82557E-09	)
 + (	54	3.82356E-09	)
 + (	54.5	3.82154E-09	)
 + (	55	3.81951E-09	)
 + (	55.5	3.81749E-09	)
 + (	56	3.81546E-09	)
 + (	56.5	3.81343E-09	)
 + (	57	3.8114E-09	)
 + (	57.5	3.80937E-09	)
 + (	58	3.80733E-09	)
 + (	58.5	3.8053E-09	)
 + (	59	3.80326E-09	)
 + (	59.5	3.80122E-09	)
 + (	60	3.79917E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 + (	0	3.497E-10	)
 + (	0.5	3.231E-10	)
 + (	1	3.042E-10	)
 + (	1.5	2.938E-10	)
 + (	2	2.84E-10	)
 + (	2.5	2.741E-10	)
 + (	3	2.638E-10	)
 + (	3.5	2.543E-10	)
 + (	4	2.447E-10	)
 + (	4.5	2.353E-10	)
 + (	5	2.262E-10	)
 + (	5.5	2.175E-10	)
 + (	6	2.084E-10	)
 + (	6.5	1.98E-10	)
 + (	7	1.862E-10	)
 + (	7.5	1.727E-10	)
 + (	8	9.629E-11	)
 + (	8.5	2.504E-11	)
 + (	9	2.485E-11	)
 + (	9.5	2.372E-11	)
 + (	10	2.278E-11	)
 + (	10.5	2.197E-11	)
 + (	11	2.125E-11	)
 + (	11.5	2.059E-11	)
 + (	12	1.999E-11	)
 + (	12.5	1.945E-11	)
 + (	13	1.894E-11	)
 + (	13.5	1.849E-11	)
 + (	14	1.806E-11	)
 + (	14.5	1.767E-11	)
 + (	15	1.731E-11	)
 + (	15.5	1.699E-11	)
 + (	16	1.668E-11	)
 + (	16.5	1.638E-11	)
 + (	17	1.611E-11	)
 + (	17.5	1.587E-11	)
 + (	18	1.563E-11	)
 + (	18.5	1.541E-11	)
 + (	19	1.521E-11	)
 + (	19.5	1.502E-11	)
 + (	20	1.484E-11	)
 + (	20.5	1.467E-11	)
 + (	21	1.452E-11	)
 + (	21.5	1.438E-11	)
 + (	22	1.425E-11	)
 + (	22.5	1.412E-11	)
 + (	23	1.401E-11	)
 + (	23.5	1.39E-11	)
 + (	24	1.379E-11	)
 + (	24.5	1.37E-11	)
 + (	25	1.361E-11	)
 + (	25.5	1.353E-11	)
 + (	26	1.345E-11	)
 + (	26.5	1.338E-11	)
 + (	27	1.331E-11	)
 + (	27.5	1.325E-11	)
 + (	28	1.319E-11	)
 + (	28.5	1.313E-11	)
 + (	29	1.307E-11	)
 + (	29.5	1.302E-11	)
 + (	30	1.299E-11	)
 + (	30.5	1.294E-11	)
 + (	31	1.289E-11	)
 + (	31.5	1.285E-11	)
 + (	32	1.28E-11	)
 + (	32.5	1.277E-11	)
 + (	33	1.274E-11	)
 + (	33.5	1.27E-11	)
 + (	34	1.267E-11	)
 + (	34.5	1.265E-11	)
 + (	35	1.262E-11	)
 + (	35.5	1.259E-11	)
 + (	36	1.257E-11	)
 + (	36.5	1.254E-11	)
 + (	37	1.252E-11	)
 + (	37.5	1.25E-11	)
 + (	38	1.248E-11	)
 + (	38.5	1.246E-11	)
 + (	39	1.245E-11	)
 + (	39.5	1.243E-11	)
 + (	40	1.242E-11	)
 + (	40.5	1.241E-11	)
 + (	41	1.239E-11	)
 + (	41.5	1.238E-11	)
 + (	42	1.238E-11	)
 + (	42.5	1.237E-11	)
 + (	43	1.236E-11	)
 + (	43.5	1.235E-11	)
 + (	44	1.235E-11	)
 + (	44.5	1.234E-11	)
 + (	45	1.233E-11	)
 + (	45.5	1.233E-11	)
 + (	46	1.233E-11	)
 + (	46.5	1.232E-11	)
 + (	47	1.232E-11	)
 + (	47.5	1.232E-11	)
 + (	48	1.232E-11	)
 + (	48.5	1.233E-11	)
 + (	49	1.233E-11	)
 + (	49.5	1.234E-11	)
 + (	50	1.234E-11	)
 + (	50.5	1.234E-11	)
 + (	51	1.235E-11	)
 + (	51.5	1.236E-11	)
 + (	52	1.237E-11	)
 + (	52.5	1.24E-11	)
 + (	53	1.241E-11	)
 + (	53.5	1.243E-11	)
 + (	54	1.244E-11	)
 + (	54.5	1.246E-11	)
 + (	55	1.249E-11	)
 + (	55.5	1.251E-11	)
 + (	56	1.254E-11	)
 + (	56.5	1.257E-11	)
 + (	57	1.26E-11	)
 + (	57.5	1.263E-11	)
 + (	58	1.267E-11	)
 + (	58.5	1.27E-11	)
 + (	59	1.274E-11	)
 + (	59.5	1.278E-11	)
 + (	60	1.283E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 + (	0	5.1963E-09	)
 + (	0.5	4.7599E-09	)
 + (	1	4.2428E-09	)
 + (	1.5	3.8852E-09	)
 + (	2	3.629E-09	)
 + (	2.5	3.4169E-09	)
 + (	3	3.2402E-09	)
 + (	3.5	3.0927E-09	)
 + (	4	2.9633E-09	)
 + (	4.5	2.8487E-09	)
 + (	5	2.7428E-09	)
 + (	5.5	2.6435E-09	)
 + (	6	2.5506E-09	)
 + (	6.5	2.459E-09	)
 + (	7	2.3628E-09	)
 + (	7.5	2.2473E-09	)
 + (	8	2.18471E-09	)
 + (	8.5	1.91596E-09	)
 + (	9	1.10715E-09	)
 + (	9.5	1.05628E-09	)
 + (	10	1.01122E-09	)
 + (	10.5	9.7083E-10	)
 + (	11	9.3465E-10	)
 + (	11.5	9.0191E-10	)
 + (	12	8.7201E-10	)
 + (	12.5	8.4445E-10	)
 + (	13	8.1906E-10	)
 + (	13.5	7.9541E-10	)
 + (	14	7.7324E-10	)
 + (	14.5	7.5263E-10	)
 + (	15	7.3319E-10	)
 + (	15.5	7.1481E-10	)
 + (	16	6.9752E-10	)
 + (	16.5	6.8142E-10	)
 + (	17	6.6609E-10	)
 + (	17.5	6.5163E-10	)
 + (	18	6.3807E-10	)
 + (	18.5	6.2509E-10	)
 + (	19	6.1289E-10	)
 + (	19.5	6.0138E-10	)
 + (	20	5.9046E-10	)
 + (	20.5	5.8013E-10	)
 + (	21	5.7028E-10	)
 + (	21.5	5.6102E-10	)
 + (	22	5.5215E-10	)
 + (	22.5	5.4378E-10	)
 + (	23	5.3589E-10	)
 + (	23.5	5.283E-10	)
 + (	24	5.2121E-10	)
 + (	24.5	5.144E-10	)
 + (	25	5.0779E-10	)
 + (	25.5	5.0167E-10	)
 + (	26	4.9585E-10	)
 + (	26.5	4.9022E-10	)
 + (	27	4.8499E-10	)
 + (	27.5	4.7985E-10	)
 + (	28	4.7511E-10	)
 + (	28.5	4.7047E-10	)
 + (	29	4.6603E-10	)
 + (	29.5	4.6188E-10	)
 + (	30	4.5781E-10	)
 + (	30.5	4.5396E-10	)
 + (	31	4.5021E-10	)
 + (	31.5	4.4665E-10	)
 + (	32	4.432E-10	)
 + (	32.5	4.3993E-10	)
 + (	33	4.3676E-10	)
 + (	33.5	4.337E-10	)
 + (	34	4.3083E-10	)
 + (	34.5	4.2805E-10	)
 + (	35	4.2528E-10	)
 + (	35.5	4.2261E-10	)
 + (	36	4.2013E-10	)
 + (	36.5	4.1766E-10	)
 + (	37	4.1528E-10	)
 + (	37.5	4.13E-10	)
 + (	38	4.1072E-10	)
 + (	38.5	4.0854E-10	)
 + (	39	4.0645E-10	)
 + (	39.5	4.0447E-10	)
 + (	40	4.0248E-10	)
 + (	40.5	4.0059E-10	)
 + (	41	3.9871E-10	)
 + (	41.5	3.9692E-10	)
 + (	42	3.9522E-10	)
 + (	42.5	3.9353E-10	)
 + (	43	3.9184E-10	)
 + (	43.5	3.9025E-10	)
 + (	44	3.8875E-10	)
 + (	44.5	3.8726E-10	)
 + (	45	3.8577E-10	)
 + (	45.5	3.8437E-10	)
 + (	46	3.8297E-10	)
 + (	46.5	3.8158E-10	)
 + (	47	3.8028E-10	)
 + (	47.5	3.7898E-10	)
 + (	48	3.7778E-10	)
 + (	48.5	3.7657E-10	)
 + (	49	3.7537E-10	)
 + (	49.5	3.7416E-10	)
 + (	50	3.7306E-10	)
 + (	50.5	3.7206E-10	)
 + (	51	3.7095E-10	)
 + (	51.5	3.6994E-10	)
 + (	52	3.6893E-10	)
 + (	52.5	3.679E-10	)
 + (	53	3.6699E-10	)
 + (	53.5	3.6607E-10	)
 + (	54	3.6516E-10	)
 + (	54.5	3.6424E-10	)
 + (	55	3.6341E-10	)
 + (	55.5	3.6249E-10	)
 + (	56	3.6166E-10	)
 + (	56.5	3.6093E-10	)
 + (	57	3.601E-10	)
 + (	57.5	3.5937E-10	)
 + (	58	3.5853E-10	)
 + (	58.5	3.578E-10	)
 + (	59	3.5706E-10	)
 + (	59.5	3.5642E-10	)
 + (	60	3.5567E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*$



